US07507740B2
Production of N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5-{4-[(cis-3,5-dimethylpiperazin-1-yl)carbonyl]benzyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine
To a solution of 4-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]methyl}benzoic acid (120 mg) in N,N-dimethylformamide (2.4 mL) were added cis-2,6-dimethylpiperazine (95 mg) and 1H-1,2,3-benzotriazol-1-ol (65 mg), and the mixture was stirred at room temperature for 15 min. N-[3-(Dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (92 mg) and triethylamine (0.2 mL) were added, and the mixture was stirred at room temperature for 12 hrs. The reaction mixture was diluted with water (20 mL) and extracted with ethyl acetate (25 mL×3). The organic layer washed with saturated brine (20 mL×3) and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (basic silica gel, eluent:ethyl acetate/methanol=10/0→9/1). The object fraction was concentrated under reduced pressure. Chloroform/diisopropyl ether (3/7) was added to the residue and the resultant precipitate was collected by filtration and dried under reduced pressure to give the title compound (85 mg) as white powder crystals.

reactant | 4-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]methyl}benzoic acid | 120 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=CN2CC2=CC=C(C(=O)O)C=C2 | C27H20ClFN4O3
reactant | cis-2,6-dimethylpiperazine | 95 mg | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
reactant | 1H-1,2,3-benzotriazol-1-ol | 65 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(Dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 92 mg | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 2.4 mL | CN(C=O)C | C3H7NO
solvent | water | 20 mL | O | H2O
solvent | triethylamine | 0.2 mL | C(C)N(CC)CC | C6H15N
product | N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5-{4-[(cis-3,5-dimethylpiperazin-1-yl)carbonyl]benzyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 85 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=CN2CC2=CC=C(C=C2)C(=O)N2C[C@H](N[C@H](C2)C)C | C33H32ClFN6O2
